US06037342
5,7-Dichloro-6-methyl-2-(4-methyl-1-piperazinyl)benzoxazole
5,7-Dichloro-6-methyl-2-mercaptobenzoxazole (200 mg) was dissolved in chloroform (20 ml), N-methylpiperazine (0.94 ml) was added dropwise to the solution and then the mixture was stirred with heating for 29 hours. After evaporation of the solvent, the thus obtained mixture was purified by a silica gel column chromatography (methylene chloride:methanol=20:1) to obtain the title compound 5,7-dichloro-6-methyl-2-(4-methyl-1-piperazinyl)benzoxazole (163 mg).

reactant | 5,7-Dichloro-6-methyl-2-mercaptobenzoxazole | 200 mg | ClC=1C(=C(C2=C(N=C(O2)S)C1)Cl)C | C8H5Cl2NOS
reactant | N-methylpiperazine | 0.94 ml | CN1CCNCC1 | C5H12N2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 5,7-dichloro-6-methyl-2-(4-methyl-1-piperazinyl)benzoxazole | 163 mg | ClC=1C(=C(C2=C(N=C(O2)N2CCN(CC2)C)C1)Cl)C | C13H15Cl2N3O
